Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Pollen Extracts
 
Attending: ___.
 
Chief Complaint:
Chills, RLQ pain, low grade temps
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo M w/ h/o sarcoidosis, HTN, DM, recently dx rectal 
adenocarcinoma s/p laparoscopic low anterior resection w/ 
coloanal anastamosis and ileostomy on ___, p/w pain at the 
ostomy site, chills and low grade temps x 3 days.

Pt recently underwent laparoscopic anterior resection w/ 
coloanal anastamosis and ileostomy placement ___.  He tolerated 
procedure well and was discharged ___ with a foley catheter 
due to voiding difficulties and started on flomax. Pt was seen 
in ___ clinic ___.  At that time failed voiding trial.  
He had urine cx that were positive for two strains of 
pan-sensitive pseudomonas.  Per patient day of clinic visit he 
was feeling well, had walked ~2miles.  On ___, 3 days prior 
to admission, patient began to develop RLQ pain below his 
ileostomy site.  His temp at home was 100 taken by visiting 
nurse.  He has not taken any antibiotics for the positive urine 
cultures.  The day prior to admission his abdominal pain was 
___, but currently it has subsided.

In the ED: initial VS were T 98.2, HR 103, BP 96/46, RR 16, O2 
100% RA.  His BP dropped to ___, received 7L NS and was briefly 
on levophed.  His SBP improved to low 100s.  His Tmax in the ED 
was 101.3.  His exam was notable for drowsiness, but 
alert/oriented, and mildly distended but soft abdomen.  Labs 
were notable for WBC 55.2, 9% bands, lactate 2.8, hct 19.6,cr 
2.5 (baseline 1.1), Na 126.  Urine notable for few bact, wbc, 
mod leuks.  He received pyridium, cipro, flagyl, and cefepime.  
CT abd/pelvis notable for LLL spiculated opacity slightly 
increased from prior, increased ground glass opacity in the 
lingula, increased mediastinal/hilar lad, gall bladder sludge, 
no abdominal abcess.

Currently, patient denies any abdominal pain.  He denies 
nausea/vomiting, cough, shortness of breath, chest pain.  He has 
his usual lower back pain, not worse than before.  He has been 
having chronic loose stools, that are brown and non-bloody.
 
Past Medical History:
#. Sarcoidosis
- CT torso ___ showed hilar/mediastinal lymphadenopathy and 
a dense area of spiculated consolidation in the left lower lobe. 
 Underwent  EBUS on ___ that revealed non-caseating 
granulomas.  
- His LLL nodule was not appropriately sampled. He was started 
on prednisone, with resulting response in lymphadenopathy and 
nodule seen on ct scan ___.
#. Rectal adenocarcinoma
- Found to be anemic ___, colonoscopy/EGD performed on 
___ and notable for a small proximal ascending colon 
adenomoatous polyp, and a mobile rectal polyp that showed high 
grade dysplasia and areas of likely intramucosal adenocarcinoma. 

- CT torso ___ poorly visualized the rectal mass, but did 
not show
perirectal or inguinal adenopathy.  The CT chest component 
revealed mediastinal and hilar lymphadenopathy and a dense area 
of spiculated consolidation in the left lower lobe.  Rectal MRI 
on ___ which showed a sessile lesion 6.7cm from the anal 
verge. 
- ___ underwent TRUS showed along the left rectal wall full 
thickness through the mucosa, submucosa, and into the muscularis 
propria with no concerning adenopathy and overall T2N0 stage.
- s/p laparoscopic low anterior resection w/ coloanal 
anastamosis and ileostomy on ___
# Diabetes
# Hypertension
# Hyperlipidemia
# H/o ?nerve tumor s/p exploratory spine surgery at ___ with no 
concerning findings
 
Social History:
___
Family History:
Mother: Died in ___ of CHF, had DM.  Father: Died in ___ of CVA
 
Physical Exam:
Physical Exam on Arrival to ___
VS: Temp: 102.2 BP: 115/53 HR: 113 RR: 22 100% O2sat on 2L
GEN: pleasant, comfortable, NAD
HEENT: PERRL, EOMI, anicteric, MMM, op without lesions, no 
supraclavicular or cervical lymphadenopathy, no jvd, no carotid 
bruits, no thyromegaly or thyroid nodules  
RESP: CTA b/l with good air movement throughout  
CV: tachycardic, S1 and S2 wnl, no m/r/g  
ABD: nd, +b/s, soft, nt, no masses or hepatosplenomegaly, 
ileostomy bag in place
GU: + foley  
EXT: no c/c/e  
SKIN: no rashes/no jaundice/no splinters  
NEURO: AAOx3. Cn II-XII intact. ___ strength throughout. No 
sensory deficits to light touch appreciated. No pass-pointing on 
finger to nose. 2+DTR's-patellar and biceps  

 
Pertinent Results:
=========
LAB
=========
___
- CBC with differentials: WBC-55.2*# RBC-3.37* Hgb-10.3* 
Hct-29.6* MCV-88 MCH-30.5 MCHC-34.8 RDW-13.2 Plt ___  
Neuts-83* Bands-9* Lymphs-3* Monos-4 Eos-0 Baso-0 Atyps-0 
Metas-1* Myelos-0
- CHEM 7: Glucose-300* UreaN-35* Creat-2.5*# Na-126* K-4.7 
Cl-92* HCO3-18*
- LFTs: ALT-29 AST-15 AlkPhos-193* TotBili-0.7
- ___ Cortsol-21.3*
- @ 10:09AM Lactate-2.8*
- UA @ 8:50AM: Color-Yellow Appear-Hazy Sp ___ Blood-LG 
Nitrite-NEG Protein-75 Glucose-TR Ketone-TR Bilirub-SM 
Urobiln-NEG pH-5.0 Leuks-MOD ___ Bacteri-FEW 
Yeast-NONE ___
- UA @ 11:55AM: URINE Color-Yellow Appear-Hazy Sp ___ 
Blood-LG Nitrite-NEG Protein-75 Glucose-NEG Ketone-TR Bilirub-SM 
Urobiln-NEG pH-5.0 Leuks-MOD ___ Bacteri-MOD 
Yeast-NONE ___

___
- Urine electrolytes: UreaN-359 Creat-61 Na-63 K-12 Cl-80 
Osmolal-342

___
- CBC: WBC-28.5* RBC-2.66* Hgb-8.2* Hct-22.6* MCV-85 MCH-30.7 
MCHC-36.1* RDW-14.1 Plt ___
- CHEM 7: Glucose-133* UreaN-12 Creat-1.4* Na-134 K-4.2 Cl-107 
HCO3-17*

===================
MICROBIOLOGY
===================
___
- Blood cultures ___: -------
- Urine cx: Negative
- MRSA screen: -------

___
- Blood cx ___: -------
- C. diff: negative

___
- Blood cx ___: -----
- C. diff: negative

===================
IMAGING
===================
___
- CXR: The cardiac, mediastinal and hilar contours are unchanged 
since ___. There are bilateral low lung volumes, 
but no pleural effusion or pneumothorax. Left basilar linear 
opacity is most compatible with atelectasis, less likely 
sequelae of aspiration. Bones appear intact.  
IMPRESSION: Left basilar linear opacity, likely atelectasis. 

- CT OF THE ABDOMEN: Evaluation is limited due to the lack of IV 
contrast. The spleen measures up to 13.8 cm which is slightly 
elevated in size and appears increased since the previous study. 
Non-contrast appearance of the kidneys is within normal limits. 
The adrenal glands, liver, pancreas, and stomach are within 
normal limits. Slightly hyperdense material noted within the 
gallbladder may represent sludge or tiny gallstones. The 
gallbladder is not distended. The retroperitoneal and mesenteric 
fat demonstrates prominent stranding, although this may be due 
to third-space fluid distribution. The stranding includes the 
peripancreatic region, so early pancreatitis is not excluded, 
though the changes are not centered about the pancreas. Small 
retroperitoneal and mesenteric lymph nodes are noted, although 
none meet CT criteria for pathologic enlargement.  The 
intra-abdominal loops of bowel are within normal limits. There 
is no 
obstruction. Patient is status post colectomy with loop 
ileostomy in the right lower quadrant. There is no evidence of 
hernia or obstruction. At the lung bases, again seen is an area 
of spiculated-appearing opacity in 
the peribronchiolar distribution at the left lung base (2:7). 
This appears 
slightly more prominent than on previous study of ___. A small area of subpleural septal thickening is seen (2;5) 
in the right middle lobe. This may be post inflammatory, but a 
small area of interstitial fibrosis is possible. Minor scarring 
or atelectasis is noted within the lingula. Hilar and 
mediastinal lymphadenopathy is again seen, although incompletely 
visualized on this study. The visualized lymphadenopathy also 
appears to have increased in size since the previous study with 
a node inferior to right bronchus now measuring 1.4cm in short 
axis versus 1cm on prior study. There is no pleural effusion. 
The heart size is normal. 
- CT OF THE PELVIS: Suture material is noted from prior 
colectomy in the rectum. A Foley catheter is noted within a 
decompressed bladder. No free fluid is noted within the pelvis. 
There is no inguinal or pelvic lymphadenopathy. 
- BONE WINDOWS: No concerning osseous lesions are identified. 
IMPRESSION: 
1. Similar basal chest findings, with slight increased 
prominence of left lower lobe spiculated opacity. Minimal 
possible right middle lobe subpleural interstitial abnormality. 
Splenomegaly. As previously described, these findings could be 
seen in sarcoidosis, though neoplasm is not excluded at the left 
lung base. 
2. Increased size of visualized portion of mediastinal 
lymphadenopathy. 
3. Hyperdense material within the gallbladder, which is new 
since the previous study and may represent sludge.
4. Stranding throughout the mesenteric fat and retroperitoneal 
fat which may be due to patient's fluid status. This includes 
the peripancreatic region so early pancreatitis is difficult to 
exclude - clinical correlation is advised. 
5 Status post colectomy with ileostomy in the right lower 
quadrant. No evidence of hernia or obstruction.  

Scrotal US ___

1. Findings suggestive of right-sided orchitis and epididymitis; 
of note there 
is a surrounding thin rim of hyperechoic material but without 
mobility of 
echotexture likely to represent liquefaction; this may represent 
phlegmonous 
change in the scrotal sac, however. 
  
2. Left testicular microlithiasis. Recommend clinical followup 
and ultrasound 
in ___ year to document stability, as this may be associated with 
increased 
testicular neoplasm. 

 
Brief Hospital Course:
Spiculated LLL lung mass had increased in size compared to 
previous imaging.  Pt requires follow up for further evaluation 
of this lung mass as it may be independent process of hilar 
lymphadenopathy.  Pt was notified on ___ that the mass had 
increased in size and it is unclear as to its etiology, but it 
is an unusual presentation for sarcoid.  He said that he and his 
physicians planned to work this mass up further, but his 
surgical intervention was a priority.  Please make sure the 
patient follows up for further evaluation in the future.

___ yo M w/ h/o sarcoidosis, HTN, DM, recently dx rectal 
adenocarcinoma s/p laparoscopic low anterior resection w/ 
coloanal anastamosis and ileostomy on ___, p/w pain at the 
ostomy site, chills, low grade temps x 3 days, urine cx from 
___ positive for ___ transferred to ___ for sepsis.

#  Septic Shock, supported by hypotension, leukocytosis with 
bandemia, and elevated lactate.  Unclear source.  Initial 
thought of the infectious source is the urine given prior 
positive pan-sensitive pseudomonas, however, Ucx was negative.  
Less likely from pneumonia given lack of clinical symptoms and 
negative abscess on abdominal scan.  Unlikely a biliary source 
given normal LFTs despite some evidence of biliary sludge.  
Blood cultures also have been NGTD????.  Unlikely adrenal 
insufficient from the brief prednisone course ___ days in 
___ and cortisol level was normal.  Patient was started on 
cefepime, ciprofloxacin, Flagyl, vancomycin (___).  The 
cefepime and ciprofloxacin for double coverage of the 
Pseudomona, Flagyl for the loose stools, and vancomycin for the 
Gram positive coverage.  Oral vancomycin was discontinued as 
recommended by ID.  He received more than 6 L of fluid in in ED, 
home antihypertensives were held, and was subsequently getting 
diuresed in the FICU as his hemodynamics improved.  
- Will need to narrow antibiotics coverage as cultures return

# LLL consolidation on CXR and speculated mass on CT: Pt had 
lymph node biopsy proven non-necrotizing granulomas; however, 
LLL mass was not adequately biopsied.  Pt was tried on steroids 
for ___ days and lymphadenopathy and LLL mass were noted to 
have decreased in size and so it was assumed that they are both 
from the same underlying etiology.  However, on re-evaluation at 
this admission the appearance of the speculated mass is not 
consistent with sarcoidosis.  Would consider re-evaluation at a 
later date and possible biopsy for further evaluation as the 
patient has a long history of smoking as well as asbestos 
exposure.  This was possibibility was discussed with patient and 
his family.  

# Acute Kidney Insufficiency.  Likely pre-renal in the setting 
of sepsis.  He had adequate urine output with the foley catheter 
in place.  There was no evidence of hydronephrosis on the CT, 
making obstructive process less likely.  ATN is also possible 
given episodes of hypotension.  He was also autodiuresing post 
the multiple liters of fluid resuscitation in the ED.  
Electrolytes were checked twice a day given autodiuresis.  

# Hyponatremia. Likely secondary to dehydration.  As he got 
rehydrated, his sodium improved.  He did not present any 
symptoms of hypernatremia.  

# Urinary retention.  It was noted that patient failed a voiding 
trial in the outpatient setting.  He had a Foley in place while 
in the FICU and also was started on Flomax as well as 
antibiotics for the UTI/urosepsis  The original plan was to have 
the foley catheter removed on ___.  

# Anion Gap Acidosis, likely from lactic acidosis.  Resolved.  
He also likely has a superimposed non-gap acidosis given 
delta-delta ration was less than ___ extra-renal losses from 
dirrhea and loose stools.  

# Rectal adenocarcinoma.  S/p laparoscopic low anterior 
resection w/ coloanal anastamosis and ileostomy on ___.  
Patient was followed by surgery while in the FICU.  

# Sarcoid, diagnosed in ___.  He completed a course of 
prednisone for ___ days with improved imaging.  Repeat CT does 
show slightly increased opacification in the LLL, which was not 
biopsied.  He was asymptomatic and maintained adequate O2Sat 
while in the FICU.  This finding was discussed with patient in 
details (see above for LLL consolidation and spiculated mass on 
CT).  This will need to be followed by his primary care 
provider.  
  
# HTN.  His antihypertensives were held while in the FICU given 
hypotensive episodes. 

# HLD.  He continued with rosuvastatin.

# Diabetes mellitus.  Patient's oral medication was held and he 
was switched to insulin sliding scale

FEN:  IVFs, Diabetic diet, Replete Lytes
Access:  3pivs
PPx:  Tylenol, hold stool softners
Comm: Patient
Emergency Contact:  Wife - ___ (HCP), cell ___, 
home ___
Code:  Full (confirmed)
DISPO: floor

Pt transferred to floor in stable condition and was continued on 
IV antibiotics. He was tolerating a regular diet and having 
bowel movements. He remained afebrile but had a persistently 
elevated WBC count althought his was trending downwards. 
Subsequent urine cultures were negative for any growth. He 
denied any abdominal pain but began conplaining of right sided 
scrotal pain. His right testicle and scrotum was noted to be 
swollen and tender and an ultrasound was performed which was 
consistent with orchitis/epidydimytis. An ID and urology consult 
was requested at this time. The recommmendation was to continue 
antibiotics as the ultrasound showed no no evidence of a 
drainable fluid collection. Pt was discharged on a ___ week 
course of oral antibiotics as per recommendations made by the 
infectious disease team. Because he had trouble voiding when the 
foley catheter was removed earlier in the hospital course, he 
was discharged with the foley catheter and a leg bag as per the 
urology team to follow up with them in 2 weeks. 
 
Medications on Admission:
Oxycodone 5 mg prn
Metformin 1000 mg bid
Simvastatin 20 mg daily
Aspirin 81 mg daily
Amlodipine 5 mg daily
Valsartan 160 mg daily
Flomax 0.4 mg daily
Acetaminophen 500 mg prn 
Glimepiride 1 mg daily 
 
Discharge Medications:
1. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
3. glipizide 5 mg Tablet Extended Rel 24 hr Sig: One (1) Tablet 
Extended Rel 24 hr PO DAILY (Daily).  
4. metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
5. Cipro 500 mg Tablet Sig: One (1) Tablet PO twice a day for 4 
weeks.
Disp:*56 Tablet(s)* Refills:*0*
6. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Orchitis, Epidydimytis

 
Discharge Condition:
Stable.
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or go to the emergency department if:
*You experience new chest pain, pressure, squeezing or 
tightness.
*You develop new or worsening cough, shortness of breath, or 
wheeze.
*You are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons.  Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience an unusual discharge.
*Your pain is not improving within 12 hours or is not under 
control within 24 hours.
*Your pain worsens or changes location.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*You develop any concerning symptoms.

General Discharge Instructions:
Please resume all regular home medications, unless specifically 
advised not to take a particular medication.  Please take any 
new medications as prescribed.
Please take the prescribed analgesic medications as needed.  You 
may not drive or heavy machinery while taking narcotic analgesic 
medications.  You may also take acetaminophen (Tylenol) as 
directed, but do not exceed 4000 mg in one day.
Please get plenty of rest, continue to walk several times per 
day, and drink adequate amounts of fluids.  Avoid strenuous 
physical activity and refrain from heavy lifting greater than 10 
lbs., until you follow-up with your surgeon, who will instruct 
you further regarding activity restrictions.  Please also 
follow-up with your primary care physician.

 
Followup Instructions:
___